US06696487B2
Preparation of the Starting Materials 1-Chloro-2,5-dimethyl-4-nitrobenzene
A sulphonitric mixture at 0° C., composed of sulphuric acid (3.8 ml) and nitric acid (1 ml), is added dropwise to a mixture, cooled to 10° C., of 2-chloro-1,4-xylene (1.4 g), acetic acid (17 ml) and 98% sulphuric acid (1 ml). The reaction medium is poured into a water/ice mixture and then filtered. The yellow precipitate is recrystallized from petroleum ether to give the title compound.

reactant | sulphuric acid | 3.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 1 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2-chloro-1,4-xylene | 1.4 g | ClC1=C(C=CC(=C1)C)C | C8H9Cl
reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 17 ml | C(C)(=O)O | C2H4O2
product | 1-Chloro-2,5-dimethyl-4-nitrobenzene | ClC1=C(C=C(C(=C1)C)[N+](=O)[O-])C | C8H8ClNO2
